US07863444B2
A mixture of 4-(4-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyaniline (0.45 g, 1.31 mmol), ammonia (115 ml, SG 0.88) and 1,4-dioxane (115 ml) was heated and stirred at 120° C. in a pressure vessel overnight. The mixture was allowed to cool to ambient temperature and the solvent was removed under reduced pressure to give a residue which was partitioned between water and ethyl acetate. The organic layer was separated and the aqueous layer was further extracted with ethyl acetate twice. The combined ethyl acetate extracts were washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and evaporated to give 5-(4-amino-3-methoxyphenyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine as brown solids (0.32 g, 0.99 mmol): 1H NMR (DMSO-d6, 400 MHz) δ 8.09 (s, 1H), 7.24 (s, 1H), 6.88 (d, 1H), 6.79 (dd, 1H), 6.71 (d, 1H), 6.01 (broad, 2H), 5.06 (m, 1H), 4.79 (broad, 2H), 3.81 (s, 3H), 2.10 (m, 2H), 1.87-1.92 (m, 4H), 1.68 (m, 2H); MH+324.

reactant | 4-(4-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyaniline | 1.31 mmol, 0.45 g | ClC=1C2=C(N=CN1)N(C=C2C2=CC(=C(N)C=C2)OC)C2CCCC2 | C18H19ClN4O
reactant | ammonia | 115 ml | N | H3N
solvent | 1,4-dioxane | 115 ml | O1CCOCC1 | C4H8O2
product | 5-(4-amino-3-methoxyphenyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.99 mmol, 0.32 g | NC1=C(C=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2CCCC2)OC | C18H21N5O
